US05317016
To a solution of crude (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-aminomethyl-4-mercaptopyrrolidine (3.3 g: 10.18 mmole) in dichloromethane (100 ml) at -78° C., triethylamine (2.84 ml: 2.2 eq.) and trimethylchlorosilane (3.12 ml: 2.2 eq.) are dropwise added. After stirring for 20 minutes, triethylamine (4.25 ml: 3 eq.) and 1M-sulfamoyl chloride in dichloromethane (25 ml: 2.5 eq.) are dropwise added to the mixture. After 20 minutes stirring, the reaction mixture is acidified with hydrochloric acid, warmed to room temperature, and extracted with dichloromethane. The extract is washed with water, and 1N-hydrochloric acid (10 ml) and methanol (30 ml) are added thereto. The solution is stirred at room temperature for 30 minutes. The reaction mixture is washed with water, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography (toluene: ethyl acetate) to give (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-sulfamoylaminomethyl-4-mercaptopyrrolidine (2.65 g). Yield: 66.7%. NMR δ(CDCl3 -CD3OD) ppm: 1.42(t, J=7 Hz, 1H), 1.65 to 1.93(m, 1H), 2.48 to 2.70(m, 1H), 3.05 to 3.63(m, 4H), 3.93 to 4.16(m, 2H), 5.22(s, 2H), 7.53(d, J=8 Hz, 2H), 8.23(d, J=8 Hz, 2H). IR ν (CHCl3) cm-1 : 3276br, 1692, 1607.

reactant | (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-aminomethyl-4-mercaptopyrrolidine | 10.18 mmole, 3.3 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)CN)C=C1 | C13H17N3O4S
reactant | triethylamine | 2.84 ml, 2.2 eq. | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 3.12 ml, 2.2 eq. | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 4.25 ml, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml, 2.5 eq. | ClCCl | CH2Cl2
product | (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-sulfamoylaminomethyl-4-mercaptopyrrolidine | 2.65 g, Yield: 66.7% | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)CNS(N)(=O)=O)C=C1 | C13H18N4O6S2
